US08426420B2
vii) 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4,5-dihydroxy-pentanoyl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 15 mg 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-3-(2,2-dimethyl-[1,3]dioxolan-4-yl)-propionyl]-piperazine-1-carboxylic acid ethyl ester in 5 ml MeOH were added 5 mg pyridinium p-toluenesulfonate and the solution was stirred for 2 h before being concentrated in vacuo. The residue thus obtained was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product.

reactant | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-3-(2,2-dimethyl-[1,3]dioxolan-4-yl)-propionyl]-piperazine-1-carboxylic acid ethyl ester | 15 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CC1OC(OC1)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C36H49N7O9
reactant | pyridinium p-toluenesulfonate | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | MeOH | 5 ml | CO | CH4O
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4,5-dihydroxy-pentanoyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(CO)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C33H45N7O9
